US08729102B2
E) 3-({(2S)-2-[(tert-butoxycarbonyl)amino]propyl}oxy)-4-fluoroisoxazole-5-carboxylic acid
To a mixture of tert-butyl {(1S)-2-[(4-fluoro-5-formylisoxazol-3-yl)oxy]-1-methylethyl}carbamate (244 mg), sodium dihydrogen phosphate (305 mg), 2-methylbut-2-ene (449 mL), 2-methylpropan-2-ol (5 mL) and water (1 mL) was added sodium chlorite (115 mg) at room temperature, and the obtained mixture was stirred at room temperature overnight. Water was added to the reaction mixture, and the mixture was extracted with a mixed solvent of ethyl acetate/2-propanol (volume ratio 3/1). The obtained organic layer was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure to give the title compound as a white powder (256 mg).

reactant | tert-butyl {(1S)-2-[(4-fluoro-5-formylisoxazol-3-yl)oxy]-1-methylethyl}carbamate | 244 mg | FC=1C(=NOC1C=O)OC[C@H](C)NC(OC(C)(C)C)=O | C12H17FN2O5
reactant | sodium dihydrogen phosphate | 305 mg | P(=O)(O)(O)[O-].[Na+]
reactant | 2-methylbut-2-ene | 449 mL | CC(C)=CC | C5H10
reactant | sodium chlorite | 115 mg | Cl(=O)[O-].[Na+]
solvent | Water | O | H2O
solvent | water | 1 mL | O | H2O
solvent | 2-methylpropan-2-ol | 5 mL | CC(C)(C)O | C4H10O
product | 3-({(2S)-2-[(tert-butoxycarbonyl)amino]propyl}oxy)-4-fluoroisoxazole-5-carboxylic acid | 256 mg | C(C)(C)(C)OC(=O)N[C@H](COC1=NOC(=C1F)C(=O)O)C | C12H17FN2O6
